US04792562
N-(2-Chloro-1H-pyrrol-1-yl)-N-ethyl-4-pyridinamine hydrochloride
To a solution of N-ethyl-N-(1H-pyrrol-1-yl)-4-pyridinamine (10.2 g) in 200 ml of anhydrous tetrahydrofuran was added N-chlorosuccinimide (7.3 g). After stirring twenty hours at ambient temperature, the reaction mixture was stirred with an aqueous solution of sodium sulfite and extracted with dichloromethane. The organic extract was washed with water and saturated sodium chloride and thereafter dried over anhydrous magnesium sulfate, filtered and evaporated to 12 g of an oil. This oil was purified by HPLC (silica, 25% dichloromethane in ethyl acetate) to give 3.7 g of the desired product as an oil. This oil was converted to the hydrochloride salt and twice recrystallized from isopropanol-ether to give 3.1 g of crystals, mp 206°-207° C.

reactant | N-ethyl-N-(1H-pyrrol-1-yl)-4-pyridinamine | 10.2 g | C(C)N(C1=CC=NC=C1)N1C=CC=C1 | C11H13N3
reactant | N-chlorosuccinimide | 7.3 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | N-(2-Chloro-1H-pyrrol-1-yl)-N-ethyl-4-pyridinamine hydrochloride | 3.7 g | Cl.ClC=1N(C=CC1)N(C1=CC=NC=C1)CC | InChI=1S/C11H12ClN3.ClH/c1-2-14(10-5-7-13-8-6-10)15-9-3-4-11(15)12;/h3-9H,2H2,1H3;1H
